US09216980B2
Step 2: 6-(Pyrrolidinylcarbonyl)-3-[4-(4-methylpiperizin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A degassed mixture of 6-(pyrrolidinylcarbonyl)-3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (158 mg, 0.457 mmol), 4-(4-methylpiperizin-1-yl)-phenyl-1-boronic acid, pinacol ester (597 mg, 1.98 mmol), and bis(triphenylphosphine)palladium(II) chloride (69.0 mg, 99.0 μmol, 5.0 mol %) in acetonitrile (2.5 mL) and 1.0M aqueous sodium carbonate (2.5 mL) was heated under microwave irradiation at 120° C. for 10 minutes, allowed to cool, and partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate filtered and concentrated in vacuo. The resultant residue was purified by preparative HPLC (0-30% MeCN/water modified with 0.1% formic acid) to afford an off-white solid (10.0 mg, 5%). 1H NMR (DMSO-D6, 400 MHz) 12.39-12.29 (s, 1H), 9.01 (d, J=2.2 Hz, 1H), 8.88 (d, J=2.2 Hz, 31), 8.86 (s, 1H), 8.70 (s, 1H), 7.69 (d, J=8.7 Hz, 2H), 7.08 (d, J=8.8 Hz, 2H), 3.78 (t, J=6.2 Hz, 2H), 3.57 (t, J=6.2 Hz, 2H), 3.25-3.18 (m, 4H), 2.47 (m, 311), 2.24 (m, 4H), 1.87 (m, 4H). LCMS (Method D): RT=7.36 min, M+H+=441.

reactant | 6-(pyrrolidinylcarbonyl)-3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.457 mmol, 158 mg | N1(CCCC1)C(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)Br | C15H13BrN4O
reactant | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | sodium carbonate | 1.0M, 2.5 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 99.0 μmol, 69.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(Pyrrolidinylcarbonyl)-3-[4-(4-methylpiperizin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 10.0 mg, 5% | N1(CCCC1)C(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)N3CCN(CC3)C | C26H28N6O
